US04533731
A mixture consisting of 9.0 g of the 3-(3-diethylaminopropylamino)-5,7-dinitroindazole, 18 g of iron powder, 60 ml of methyl alcohol, 30 ml of water and 3 ml of hydrochloric acid was stirred for 1.5 hours at 70° C. After cooling, the mixture was filtered, and the pH of the filtrate was adjusted to 11 with an aqueous potassium carbonate solution. The filtrate was extracted three times with 50 ml of ethyl acetate. The ethyl acetate layer was washed with water and dried over anhydrous sodium sulfate. Then, ethyl acetate was removed under reduced pressure. The residue thus obtained was subjected to an alumina-column chromatography (alumina: 200 g) using chloroform as the developing solvent to give 1.67 g of 3-(3-diethylaminopropylamino)-5,7-diaminoindazole having the following analytical values in a yield of 22%.

reactant | 3-(3-diethylaminopropylamino)-5,7-dinitroindazole | 9.0 g | C(C)N(CCCNC1=NNC2=C(C=C(C=C12)[N+](=O)[O-])[N+](=O)[O-])CC | C14H20N6O4
reactant | methyl alcohol | 60 ml | CO | CH4O
reactant | water | 30 ml | O | H2O
reactant | hydrochloric acid | 3 ml | Cl | ClH
catalyst | iron | 18 g | [Fe] | Fe
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(3-diethylaminopropylamino)-5,7-diaminoindazole | 1.67 g, yield of 22% | C(C)N(CCCNC1=NNC2=C(C=C(C=C12)N)N)CC | C14H24N6
